US05880121
3-(1-(4-(p-Chlorophenyl)-4-hydroxy-piperidinyl)-8-methoxy-4,5-dihydronaphth[1,2-c]isoxazole
A stirred mixture of 3-chloro-8-methoxy-4,5-dihydronaphth[1,2-c]isoxazole (2.0 g, 8.51 mmol), 4-(p-chlorophenyl)-4-hydroxy-dipiperidine (3.6 g, 17.02 mol) and K2CO3 (2.35 g, 17.02 mmol) in 6 ml of N-methylpyrrolidinone under N2 was lowered into an oil bath preheated to 150° C. The mixture was heated while stirring under N2 for 1 hour. At that time, TLC [CH2Cl2 ] showed no remaining starting material. The mixture was removed from the heating bath and allowed to cool to room temperature. Upon dilution of the reaction mixture with H2O, a solid precipitated which was recrystallized from EtOAc and dried in vacuo (0.1 mm) at 85° C. to provide pure product, mp of 174°-177° C., homogeneous by TLC [silica, 2:1 heptane:EtOAc, Rf=0.263]. The IR (CHCl3), NMR (CDCl3) and Mass Spectrum (M+ =410, E.I., 70 eV) were consistent with the structure. The yield was 2.3798 g (5.60 mmol, 68.20%).

reactant | 3-chloro-8-methoxy-4,5-dihydronaphth[1,2-c]isoxazole | 8.51 mmol, 2.0 g | ClC1=C2C(=NO1)C1=CC(=CC=C1CC2)OC | C12H10ClNO2
reactant | K2CO3 | 17.02 mmol, 2.35 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | heptane | CCCCCCC | C7H16
reactant | N-methylpyrrolidinone | 6 ml | CN1C(CCC1)=O | C5H9NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-(p-Chlorophenyl)-4-hydroxy-piperidinyl)-8-methoxy-4,5-dihydronaphth[1,2-c]isoxazole | ClC1=CC=C(C=C1)C1(CCN(CC1)N1OCC2=C1C1=CC(=CC=C1CC2)OC)O | C23H25ClN2O3
